* OPA2134 Dual audio operational amplifier macro-model
* FET-input, low distortion, high slew rate
.subckt OPA2134 1 2 6 7 4
* pins: non-inv inv out v+ v-
* Very high impedance FET input
RIN+ 1 4 1e13
RIN- 2 4 1e13
* Very high open-loop gain
EGAIN 3 0 1 2 1000000
* Low impedance output with high bandwidth
ROUT 3 6 25
COUT 6 4 2p
.ENDS OPA2134
